US07671066B2
Preparation of 3-cyclopropylmethoxy-4-methoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5546)
The compound was obtained starting from 3,5-dichloro-4-methyl-pyridine and 3-(cyclopropylmethoxy)-4-methoxy-benzoyl chloride, following the procedure of Example 31.

reactant | 3,5-dichloro-4-methyl-pyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-(cyclopropylmethoxy)-4-methoxy-benzoyl chloride | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC | C12H13ClO3
product | 3-cyclopropylmethoxy-4-methoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CC1)COC=1C=C(C=CC1OC)/C(=C/C1=C(C=NC=C1Cl)Cl)/OC(C1=CC(=C(C=C1)OC)OCC1CC1)=O | C30H29Cl2NO6
